US08378104B2
Step C: di-tert-butyl {4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-yl}imidodicarbonate
A mixture of di-tert-butyl (4-iodofuro[2,3-c]pyridin-7-yl)imidodicarbonate (1.2 g, 2.6 mmol), [1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]boronic acid (1.06 g, 3.26 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium (II) dichloride dichloromethane complex (213 mg, 0.261 mmol) and potassium carbonate (0.901 g, 6.52 mmol) in 1,4-dioxane (10 mL) and water (5 mL) was degassed with nitrogen for 10 min. The mixture was then heated to 70° C. for 20 min. Ethyl acetate was added, and the layers separated. The combined organic fractions were dried over sodium sulfate, filtered, and concentrated. Purification of the residue by ISCO chromatography (0% to 35% EtOAc:heptane) afforded 1.15 g (72%) of the title compound as an off-white solid. 1H NMR (400 MHz, CDCl3): δ 8.38 (s, 1 H), 7.89 (s, 1 H), 7.82-7.77 (m, 2 H), 7.02 (d, J=2.0 Hz, 1 H), 4.21 (tdd, J=3.9, 7.7, 11.5 Hz, 1 H), 3.82-3.66 (m, 1 H), 2.33-2.17 (m, 2 H), 2.09-2.01 (m, 2 H), 2.00-1.87 (m, 2 H), 1.59-1.49 (m, 2 H), 1.40 (s, 18 H), 0.91 (s, 9 H), 0.09 (s, 6 H); MS (ESI): 613.46 [M+H]+.

reactant | di-tert-butyl (4-iodofuro[2,3-c]pyridin-7-yl)imidodicarbonate | 2.6 mmol, 1.2 g | IC1=C2C(=C(N=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC=C2 | C17H21IN2O5
reactant | [1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]boronic acid | 3.26 mmol, 1.06 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)B(O)O | C15H29BN2O3Si
reactant | potassium carbonate | 6.52 mmol, 0.901 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | di-tert-butyl {4-[1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-1H-pyrazol-4-yl]furo[2,3-c]pyridin-7-yl}imidodicarbonate | 1.15 g, 72% | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)OC=C2 | C32H48N4O6Si
